US05180720
8-chloro-10,11-dihydro-2-methoxydibenz-[b,f][1,4]oxazepine
5.00 g of 2-(4-chloro-2-nitrophenoxy)-5-methoxybenzaldehyde, prepared as described above in Example 1, in 50 mL of tetrahydrofuran (THF) was shaken in a Parr hydrogenator at 5 psi hydrogen with Raney nickel at 25° C. for 5 hours. The catalyst was filtered from the reaction and the solution evaporated in vacuo. The crude product was purified by column chromatography in the manner described by Still et al., "A Rapid Chromatographic Technique for Preparative Separations with Moderate Resolution," J. Org. Chem, 43, 2923 (1978), through silica gel 60 using hexane:ethyl acetate (2:1) to yield 2.08 g (48.9%) of product as a white solid. Melting Point: 111°-113° C.

reactant | 2-(4-chloro-2-nitrophenoxy)-5-methoxybenzaldehyde | 5.00 g | ClC1=CC(=C(OC2=C(C=O)C=C(C=C2)OC)C=C1)[N+](=O)[O-] | C14H10ClNO5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 8-chloro-10,11-dihydro-2-methoxydibenz-[b,f][1,4]oxazepine | 2.08 g, 48.9% | ClC1=CC2=C(OC3=C(CN2)C=C(C=C3)OC)C=C1 | C14H12ClNO2
